US07344702B2
Synthesis of 2-tert-butyl-4-hydoxymethyl-5-(4-tert-butylbenzyl)thio-3(2H)-pyridazinone
To a 15 ml round bottom flask charged with 2-tert-butyl-4-tert-butyldimethylsilyloxymethyl-5-(4-tert-butylbenzyl)thio-3(2H)-pyridazinone (2 g, 4.2 mmol) is added tetrabutylammonium fluoride solution (1M in THF, 21 ml, 21 mmol). The mixture is first stirred at room temperature for 5 hours and to it is added dichloromethane followed by water. The layers are separated and the organic layer is washed with water and dried. The organic layer is then concentrated and subjected to purification using silica gel flash chromatography (ethyl acetate/hexanes) to obtain the above compound.

reactant | 2-tert-butyl-4-tert-butyldimethylsilyloxymethyl-5-(4-tert-butylbenzyl)thio-3(2H)-pyridazinone | 4.2 mmol, 2 g | C(C)(C)(C)N1N=CC(=C(C1=O)CO[Si](C)(C)C(C)(C)C)SCC1=CC=C(C=C1)C(C)(C)C | C26H42N2O2SSi
reactant | tetrabutylammonium fluoride | 21 mmol, 1M, 21 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-tert-butyl-4-hydoxymethyl-5-(4-tert-butylbenzyl)thio-3(2H)-pyridazinone | C(C)(C)(C)N1N=CC(=C(C1=O)CO)SCC1=CC=C(C=C1)C(C)(C)C | C20H28N2O2S
